 4. Laboratorijska vaja (Komentar,naslov,....)

    .include models.inc
 
    *Ukazi: echo, op(delona tocka), setplot, display, print, let, dc, destroy, plot, tran, fourier, max, min
    *-------opis vezja------------------
	

    r_re    3   0   r=1k
	r_r1    5   2   r=178k
	r_r2    2   0   r=95k
	r_rl    6   0   r=10k
   	r_rc    5   4   r=1.46k

    
    v_mer1  4   44  dc=0
    v_mer2  4   45  dc=0
	v_vin   1   0   dc=0    sin=(0, 0.05, 5k) acmag=1
    v_vcc   5   0   dc=10
	

	q_q1   44   2   7   T2N2222
	q_q2   45   7   3   T2N2222
	
	C1	1	2	c=100u	
	C2	4	6	c=100u	
    CE	3	0	c=100u	
	
	*------------Simulacija-----------------
    
    .control
        destroy all
    
        echo ######### Vaja 4 #########
        
        
        echo --------- OP1 ---------
		
		*delovna tocka
		op
		
        let icq1=i(v_mer1)
        let icq2=i(v_mer2)
        let vceq1=v(4,7)
        let vceq2=v(4,3)
        print icq1 icq2 vceq1 vceq2
        
        echo --------- TRAN1 ---------
        
        * tran dt tstop --- casovna analiza (dt-CASOVNI korak, )
        tran 1u 5m
        

        *let vx=max(v(7))-min(v(7))
		*let ix=max(-i(v_vout))-min(-i(v_vout))
		*let rout=vx/ix
		*print rout
        
        let vin_pp=max(v(1))-min(v(1))
        let vout_pp=max(v(6))-min(v(6))
        let av=vout_pp/vin_pp
        print av  
        
        *let iout=max(v(7)/20000)-min(v(7)/20000)
        *let iin=max(-i(v_vin))-min(-i(v_vin))
        *let ai=iout/iin
        *print ai
        
        echo ----------- AC1 -------------
        
        let av=v(6)/v(1)
   let av_db=db(av)
   let av_ph=ph(av)
   plot av_db xlabel 'f' ylabel 'Av[dB]'
   plot av_ph xlabel 'f' ylabel 'Ph'
        

        
    .endc

    .end
 
